US06897224B2
2-(Trifluoromethyl)quinoline
According to instructions in the literature (Baraznenok, I. L., Nenajdenko, V. G., Balenkova, E. S. Eur. J. Org. Chem. 1999, 937-941), 1.2 g (7.18 mmol) of(E)-4-(dimethylamino)-1,1,1-trifluoro-3-buten-2-one is reacted with 2.03 g (7.18 mmol) of trifluoroacetic acid anhydride and 1.30 ml (14.36 mmol) of aniline in 72 ml of 1,2-dichloroethane, then in 36 ml of xylene. After working-up and purification on silica gel with hexane-ethyl acetate (0-100%), 1.01 g (71% of theory) of the product is obtained.

reactant | trifluoroacetic acid anhydride | 7.18 mmol, 2.03 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | aniline | 14.36 mmol, 1.30 ml | NC1=CC=CC=C1 | C6H7N
reactant | 1,2-dichloroethane | 72 ml | ClCCCl | C2H4Cl2
solvent | xylene | 36 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(Trifluoromethyl)quinoline | FC(C1=NC2=CC=CC=C2C=C1)(F)F | C10H6F3N
